data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6549,"CC(=O)[O-:1].COC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8182,"CC1=CC=C(S(=O)(=O)OC(C)CCC[N-:1]C)C=C1.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,5256,"CCC(=O)O[C+:1]1C=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,5807,"C[CH:1]([NH2:2])[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9120,"CC(C)CC1CCC2C3CCC4=CC(=[O+:1][Al-:2]([O]C(C)C)([O]C(C)C)[O]C(C)C)CCC4(C)C3CCC12C.CC(C)[O-]|((2, 1), 1)"
train,pmechdb_split_0,0,4854,"COC1=C(O)C=CC(CC2C(C(O)C3=CC(OC)=C(O)C=C3)C[O:1][C:2]2([O][Na])[O-:3])=C1.[OH2+][Na]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9160,"CC(=O)OC(=O)CC[C:1](Cl)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5119,"C1=CC=C([N+:1](=C2CCCCC2)[H:2])C=C1.CC(=O)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9241,"C1[CH2:1][O:2]1.C[C:3](C)=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4475,"C(CC[O-:1])C[CH:2]1C[O:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4622,"O=C(C1=CC=CC=C1)[CH2:1][Mg:2][Br].[H:3][OH:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6526,"CC[NH2+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5201,"CC(CO)(COC(C1=CC=CC=C1)[OH:1])C(=O)O.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5017,"CCCC1CC2=C(C(O)=C(OC)C=C2)[C:1]2([OH:2])C1CC[C:3]([O-:4])=[CH:5]2.O.O=C[O][Na].[OH2+][Na]|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,275,"CO.C[O+:1]=[CH2:2].O.O=C(O)C(CC1=CC=C(O)C=C1)[NH2:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1257,"C[NH+:1]=[CH2:2].[F-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5667,"C=CC1=CC=C([C:1](O)=[OH+:2])C=C1.C[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2401,"CCSC[CH:1]=[C:2](C)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6318,"CCOC(=O)CCC1([OH:1])COC2=C(OC)C3=C(C=CC=C3)C(C)=C21.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2629,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1(CC[C:1](=[CH:2]C)[NH:3]C(CC2=CC=CC=C2)C(=O)O)C(=O)CCC[C:4]1=[O:5].O.[NH3+]C(CC1=CC=CC=C1)C(=O)O|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7987,"CO[P+:1](C)(OC)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1795,"C1C[CH:1]=[C:2]([O-:3])C1.CCO[C:4](C)=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3137,"C[OH+:1][H:2].C[Si-](C)(C)(Cl)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3362,"CCC1C=CC2O[C:1](=[O:2])C1C2CCCC#N.N[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6001,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].CC1(C)C2CCC3CC4CC3(CCC4O)C2(C)CCC1[OH:2]|(2, 1)"
train,pmechdb_split_0,0,3081,"C=C(C)O[S:1](=O)(C(F)(F)F)([O-:2])[O:3]S(=O)(=O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4953,"N[C:1](OCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8536,"CC(C=CC1=CC=CC=C1)[O-:1].CCC[CH2][Al:2]([CH2]C(C)C)[CH2]C(C)C.[Li+]|(1, 2)"
train,pmechdb_split_0,0,9031,"C=CC(O)=[N:1]C1CCCCC1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1955,"CC(=O)O[Si:1](C)(C)C.CC(O)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,6534,"CCCO[C:1](CCC)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,717,"O=C1CCCC1C(C1=CC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5946,"CC(C)CC1CCC2C3CC=C4C[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)CCC4(C)C3CCC12C.CC(C)O.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,69,"CCNCC.CC[N+:1](CC)=[CH:2]C=C(C)C.O=C1CCC[C:3]([OH:4])=[CH:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6949,"CC[NH+]1CCC23C4=C5C=CC(OC)=C4OC2C(=[O:1])CCC3C1C5.CO.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2158,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2=C(C)C=C([N+](=O)[O-])C=C2)C=C1.OC=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5880,"C[CH2][Sn:1]([CH2]C)([CH2]C)[CH2][CH+]CC([O][Zn-]([Cl])[Cl])C1=CC=CC=C1.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,2451,"CC1=CC=C(S(=O)(=O)N2C=C(C=[N:1][N-:2][S:3](=O)(=O)C3=CC=C(C)C=C3)C3=CC=C(NC(=O)OCC4C5=CC=CC=C5C5=C4C=CC=C5)C=C32)C=C1.[Li][OH+]C(C)(C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5191,"C=CC[Si](C)(C)C.CC[O:1]C1CC2OC(=O)OC2C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)O1.C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,7839,"COC(=O)[CH:1]([H:2])[C:3](OC)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4923,"CC(CO)O[P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9358,"CC(=O)OC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9806,"CC[OH:1].C[CH+:2]CBr|(1, 2)"
train,pmechdb_split_0,0,5090,"CCCCCCOP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(NC(=O)OCC)C(OCC)=[O:1].COCOC1=C(C(=O)[O:2][H:3])C(C(=O)OC)=C(C2=CC(OC)=C(OC)C=C2)C2=C1C=C(OC)C(OC)=C2OC|(1, 3);((3, 2), 2)"
